US07488746B2
(2,4-Dichloro-thiophen-3-yl)-(5,6-difluoro-1H-benzoimidazol-2-yl)-amine-hydrochloride
To 1-(2-amino-4,5-difluoro-phenyl)-3-(4-chloro-thiophen-3-yl)-thiourea (773 mg) in THF (20 ml) a solution of NaOH (240 mg) in water (9 ml) was added followed by a solution of p-toluenesulfonyl chloride (528 mg) in THF (10 ml). Following the analogous description in example 54b) the desired product (275 mg) was obtained.

reactant | 1-(2-amino-4,5-difluoro-phenyl)-3-(4-chloro-thiophen-3-yl)-thiourea | 773 mg | NC1=C(C=C(C(=C1)F)F)NC(=S)NC1=CSC=C1Cl | C11H8ClF2N3S2
reactant | NaOH | 240 mg | [OH-].[Na+]
reactant | p-toluenesulfonyl chloride | 528 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 9 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (2,4-Dichloro-thiophen-3-yl)-(5,6-difluoro-1H-benzoimidazol-2-yl)-amine-hydrochloride | 275 mg | Cl.ClC=1SC=C(C1NC1=NC2=C(N1)C=C(C(=C2)F)F)Cl | InChI=1S/C11H5Cl2F2N3S.ClH/c12-4-3-19-10(13)9(4)18-11-16-7-1-5(14)6(15)2-8(7)17-11;/h1-3H,(H2,16,17,18);1H
